US06887874B2
A solution of 3-(piperazin-1-yl)propan-1-ol (0.93 g, 6.45 mmol), chloroacetonitrile (0.58 g, 7.75 mmol), potassium carbonate (1.79 g, 12.9 mmol) and sodium iodide (0.32 g, 1.93 mmol) in DMF (10 ml) was stirred at ambient temperature overnight. The volatiles were removed under vacuum and the residue was purified by column chromatography eluting with ethylene chloride/methanol (95/5) to give 3-(4-cyanomethylpiperazin-1-yl)propan-1-ol (0.84 g, 71%).

reactant | 3-(piperazin-1-yl)propan-1-ol | 6.45 mmol, 0.93 g | N1(CCNCC1)CCCO | C7H16N2O
reactant | chloroacetonitrile | 7.75 mmol, 0.58 g | ClCC#N | C2H2ClN
reactant | potassium carbonate | 12.9 mmol, 1.79 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 1.93 mmol, 0.32 g | [I-].[Na+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 3-(4-cyanomethylpiperazin-1-yl)propan-1-ol | 0.84 g, 71% | C(#N)CN1CCN(CC1)CCCO | C9H17N3O
